US08791255B2
0.940 ml of trifluoroacetic acid is added dropwise to a solution of 200 mg of 2-methylpropan-2-yl 4-({[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetyl}amino)-1H-indole-1-carboxylate in 8 ml of dichloromethane. After stirring at ambient temperature for 3 hours, the reaction medium is concentrated under reduced pressure, taken up with toluene and concentrated under reduced pressure. After purification by silica column chromatography, eluent: 90/10 CH2Cl2/MeOH, 48 mg of N-(1H-indol-4-yl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained, the characteristics of which are the following:

reactant | trifluoroacetic acid | 0.940 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-methylpropan-2-yl 4-({[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetyl}amino)-1H-indole-1-carboxylate | 200 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)NC1=C2C=CN(C2=CC=C1)C(=O)OC(C)(C)C | C23H27N5O5
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-(1H-indol-4-yl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 48 mg | N1C=CC2=C(C=CC=C12)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C18H19N5O3
